US06727232B2
To a solution of 5.30 g (20 mmol) of 12-bromo-1-dodecanol in 100 ml of acetonitrile is added dropwise 6 ml (68.6 mmol) of morpholine at 0° C. The solution is then stirred at room temperature overnight and filtered. After removal of the acetonitrile, the residue is dissolved in 250 ml of dichloromethane. The dichloromethane solution is washed with water, dried over magnesium sulfate and filtered. The dichloromethane is removed under reduced pressure and the residue is purified by silica gel column chromatography to give 4.2 g (79.2%) of 12-(4-morpholinyl)-1-dodecanol.

reactant | 12-bromo-1-dodecanol | 20 mmol, 5.30 g | BrCCCCCCCCCCCCO | C12H25BrO
reactant | morpholine | 68.6 mmol, 6 ml | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 12-(4-morpholinyl)-1-dodecanol | 4.2 g, 79.2% | N1(CCOCC1)CCCCCCCCCCCCO | C16H33NO2
